### PR TITLE
feat(LinearAlgebra/TensorProduct/HomTensor): Add TensorProduct of Hom-modules

### PR DESCRIPTION
**Pull request by Whysoserioushah**
Co-authored-by: Andrew Yang <the.erd.one@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 1]
```diff
@@ -0,0 +1,205 @@
...
+  (Module.Finite.exists_comp_eq_id_of_projective R M).choose_spec.choose_spec.choose
+
+lemma f0_surj : Function.Surjective (f0 R M) :=
+  (Module.Finite.exists_comp_eq_id_of_projective R M).choose_spec.choose_spec.choose_spec|>.1
+
+lemma g0_inj : Function.Injective (g0 R M) :=
+  (Module.Finite.exists_comp_eq_id_of_projective R M).choose_spec.choose_spec.choose_spec|>.2.1
+
+lemma fg : (f0 R M) ∘ₗ (g0 R M) = LinearMap.id :=
+  (Module.Finite.exists_comp_eq_id_of_projective R M).choose_spec.choose_spec.choose_spec|>.2.2
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:46]: You probably shouldn't start wit this. You should start with an arbitrary free module and these splittings. And specialize to finite projective modules in the ned.

Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:46]: but I thought the whole file is about finite projective modules?

Comment (erdOne) [reply Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:46]: Yes but this should work for arbitrary splittings of projective modules, not only the one obtained by choice.

Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean]: done!

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 2]
```diff
@@ -0,0 +1,208 @@
...
+
+include fg in
+lemma projection_inlusion1 : (projection1 R M P M' g0).comp (inclusion1 R M P M' f0) =
+    LinearMap.id := by
+  ext f x
+  simp [LinearMap.comp_assoc]
+  exact congr(f ($fg x))
+
+include fg fg' in
+lemma tensor_inclusion1_projection1 : (tensor_projection1 R M N P Q M' N' g0 g0').comp
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:66]: I think these names are not suitable for mathlib. The naming convention doesn't say anything about 1's. Why can't we just follow the naming convention with these lemmas?

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 3]
```diff
@@ -0,0 +1,208 @@
...
+
+-- lemma f0_surj : Function.Surjective (f0 R M) :=
+--   (Module.Finite.exists_comp_eq_id_of_projective R M).choose_spec.choose_spec.choose_spec|>.1
+
+-- lemma g0_inj : Function.Injective (g0 R M) :=
+--   (Module.Finite.exists_comp_eq_id_of_projective R M).choose_spec.choose_spec.choose_spec|>.2.1
+
+-- lemma fg : (f0 R M) ∘ₗ (g0 R M) = LinearMap.id :=
+--   (Module.Finite.exists_comp_eq_id_of_projective R M).choose_spec.choose_spec.choose_spec|>.2.2
+
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:43]: yes that was a mistake

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 4]
```diff
@@ -0,0 +1,208 @@
...
+/-- the map from `Hom(M, P)` to `Hom(Rⁿ, P)` induced from `M` being finitely generated projecive.-/
+abbrev inclusion1 : (M →ₗ[R] P) →ₗ[R] (M' →ₗ[R] P) := LinearMap.lcomp _ _ f0
+
+/-- the map from `Hom(Rⁿ, P)` to `Hom(M, P)` induced from `M` being finitely generated projecive.-/
+abbrev projection1 : (M' →ₗ[R] P) →ₗ[R] (M →ₗ[R] P) := LinearMap.lcomp _ _ g0
+
+/-- `Hom(M, P) ⊗ Hom(N, Q) →ₗ[R] Hom(Rⁿ, P) ⊗ Hom(Rᵐ, Q)` -/
+abbrev tensor_inclusion1 : (M →ₗ[R] P) ⊗[R] (N →ₗ[R] Q) →ₗ[R]
+  (M' →ₗ[R] P) ⊗[R] (N' →ₗ[R] Q) :=
+  TensorProduct.map (inclusion1 R M P M' f0) (inclusion1 R N Q N' f0')
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:53]: I'm probably gonna make this `private`...

[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean]: deleted this `abbrev`!

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 5]
```diff
@@ -0,0 +1,208 @@
...
+--   (Module.Finite.exists_comp_eq_id_of_projective R M).choose_spec.choose_spec.choose_spec|>.1
+
+-- lemma g0_inj : Function.Injective (g0 R M) :=
+--   (Module.Finite.exists_comp_eq_id_of_projective R M).choose_spec.choose_spec.choose_spec|>.2.1
+
+-- lemma fg : (f0 R M) ∘ₗ (g0 R M) = LinearMap.id :=
+--   (Module.Finite.exists_comp_eq_id_of_projective R M).choose_spec.choose_spec.choose_spec|>.2.2
+
+/-- the map from `Hom(M, P)` to `Hom(Rⁿ, P)` induced from `M` being finitely generated projecive.-/
+abbrev inclusion1 : (M →ₗ[R] P) →ₗ[R] (M' →ₗ[R] P) := LinearMap.lcomp _ _ f0
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean]: it's deleted!

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean (hunk 2 above)
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean]: I've marked them `private` but I'm happy to change names! (I'm terrible at naming stuff...:(()

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 6]
```diff
@@ -0,0 +1,208 @@
...
+  TensorProduct.map (inclusion1 R M P M' f0) (inclusion1 R N Q N' f0')
+
+/-- `Hom(Rⁿ, P) ⊗ Hom(Rᵐ, Q) →ₗ[R] Hom(M, P) ⊗ Hom(N, Q)` -/
+abbrev tensor_projection1 := TensorProduct.map (projection1 R M P M' g0) (projection1 R N Q N' g0')
+
+include fg in
+lemma projection_inlusion1 : (projection1 R M P M' g0).comp (inclusion1 R M P M' f0) =
+    LinearMap.id := by
+  ext f x
+  simp [LinearMap.comp_assoc]
```
[the remark this answers is not in the document]
Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean]: removed!

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 7]
```diff
@@ -0,0 +1,173 @@
...
+  obtain ⟨n1, f0, g0, hf, hg, fg⟩ := Module.Finite.exists_comp_eq_id_of_projective R M
+  obtain ⟨n2, f0', g0', hf', hg', fg'⟩ := Module.Finite.exists_comp_eq_id_of_projective R N
+  exact ⟨homTensorHomMap_inj R M N P Q (Fin n1 → R) (Fin n2 → R) _ _ fg _ _ fg',
+    homTensorHomMap_surj R M N P Q (Fin n1 → R) (Fin n2 → R) _ _ fg _ _ fg'⟩
+
+/-- `Hom (M, P) ⊗ Hom (N, Q)` is linearly equivalent to `Hom(M ⊗ N, P ⊗ Q)` via the map
+  `TensorProduct.homTensorHomMap`, this could also be seen as a generalisation of
+  `homTensorHomEquiv`. -/
+@[simps!]
+def Module.Hom.Tensor: (M →ₗ[R] P) ⊗[R] (N →ₗ[R] Q) ≃ₗ[R] (M ⊗[R] N →ₗ[R] P ⊗[R] Q) :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:172]:
```suggestion
def Module.Hom.Tensor : (M →ₗ[R] P) ⊗[R] (N →ₗ[R] Q) ≃ₗ[R] (M ⊗[R] N →ₗ[R] P ⊗[R] Q) :=
```
and everywhere else

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 8]
```diff
@@ -0,0 +1,173 @@
...
+
+lemma homTensorHomMap_bij: Function.Bijective (TensorProduct.homTensorHomMap R M N P Q) := by
+  obtain ⟨n1, f0, g0, hf, hg, fg⟩ := Module.Finite.exists_comp_eq_id_of_projective R M
+  obtain ⟨n2, f0', g0', hf', hg', fg'⟩ := Module.Finite.exists_comp_eq_id_of_projective R N
+  exact ⟨homTensorHomMap_inj R M N P Q (Fin n1 → R) (Fin n2 → R) _ _ fg _ _ fg',
+    homTensorHomMap_surj R M N P Q (Fin n1 → R) (Fin n2 → R) _ _ fg _ _ fg'⟩
+
+/-- `Hom (M, P) ⊗ Hom (N, Q)` is linearly equivalent to `Hom(M ⊗ N, P ⊗ Q)` via the map
+  `TensorProduct.homTensorHomMap`, this could also be seen as a generalisation of
+  `homTensorHomEquiv`. -/
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:170]:
```suggestion
`TensorProduct.homTensorHomMap`, this could also be seen as a generalisation of
`homTensorHomEquiv`. -/
```

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 9]
```diff
@@ -0,0 +1,173 @@
...
+include f0 f0' g0 g0' fg fg' in
+lemma homTensorHomMap_inj : Function.Injective
+  (TensorProduct.homTensorHomMap R M N P Q) := by
+  apply Function.Injective.of_comp (f := (TensorProduct.map f0 f0').lcomp R (P ⊗[R] Q))
+  rw [← LinearMap.coe_comp, ← comm_square2]
+  exact Function.Injective.comp (f := TensorProduct.map _ _)
+    (homTensorHomEquiv R M' N' P Q).injective <|
+    tensor_inclusion1_inj _ _ _ _ _ _ _ _ _ fg _ _ fg'
+
+private lemma comm_sqaure3: (homTensorHomEquiv R _ _ _ _).toLinearMap ∘ₗ
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:119]:
```suggestion
private lemma comm_square3 : (homTensorHomEquiv R _ _ _ _).toLinearMap ∘ₗ
```

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 10]
```diff
@@ -0,0 +1,173 @@
...
+  [Module R M] [Module R N] [AddCommGroup P] [AddCommGroup Q] [Module R P] [Module R Q]
+  [AddCommGroup M'] [Module R M'] [AddCommGroup N'] [Module R N']
+
+variable (f0 : M' →ₗ[R] M) (g0 : M →ₗ[R] M') (fg : f0.comp g0 = LinearMap.id)
+  (f0' : N' →ₗ[R] N) (g0' : N →ₗ[R] N') (fg' : f0'.comp g0' = LinearMap.id)
+
+open LinearMap
+
+include fg in
+private lemma projection_inlusion1 : (g0.lcomp R P).comp (f0.lcomp R P) =
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:37]:
```suggestion
private lemma projection_inclusion1 : (g0.lcomp R P).comp (f0.lcomp R P) =
```

**Review by erdOne — COMMENTED** [review]
I am not really sure about having all these private lemmas. Everything up to `tensor_inclusion2_inj` seems quite useless to me. They are mostly only used once below and could be dealt with in line. And `tensor_inclusion2_inj` itself is a general statement saying that surjective maps are epi.

File: Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean [hunk 11]
```diff
@@ -0,0 +1,173 @@
...
+  (f0' : N' →ₗ[R] N) (g0' : N →ₗ[R] N') (fg' : f0'.comp g0' = LinearMap.id)
+
+open LinearMap
+
+include fg in
+private lemma projection_inclusion1 : (g0.lcomp R P).comp (f0.lcomp R P) =
+    LinearMap.id := by
+  ext f x
+  simp only [coe_comp, Function.comp_apply, lcomp_apply, id_coe, id_eq]
+  exact congr(f ($fg x))
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:41]: I'm still not convinced we need these private lemmas (`projection_inclusion1` ~ `tensor_inclusion2_inj`)

Comment (Whysoserioushah) [reply Mathlib/LinearAlgebra/TensorProduct/HomTensor.lean:41]: I'll get back to this later :))

**Comment by YaelDillies** [comment]
Reopened as #41479.
